US07265149B2
In analogy to the procedure described for example 4 b], (Z)-2-hydroxy-4-oxo-4-(4-trifluoromethoxy-phenyl)-but-2-enoic acid ethyl ester was reacted with hydrazine monohydrate in ethanol under reflux conditions to give 5-(4-trifluoromethoxy-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester as yellow crystals.

reactant | (Z)-2-hydroxy-4-oxo-4-(4-trifluoromethoxy-phenyl)-but-2-enoic acid ethyl ester | C(C)OC(/C(=C/C(C1=CC=C(C=C1)OC(F)(F)F)=O)/O)=O | C13H11F3O5
reactant | hydrazine monohydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-trifluoromethoxy-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC(=C1)C1=CC=C(C=C1)OC(F)(F)F | C13H11F3N2O3
